US05382584
N-(2,6-Dimethylphenyl)-1-piperazineacetamide Dihydrochloride Hydrate (II)
N-(2,6-dimethylphenyl)-4-formyl-1-piperazineacetamide (17.70 g, 64.0 mmol) was dissolved in a mixture of methanol (500 mL) and 1N HCl (130 mL) under nitrogen. The mixture was refluxed for 7 h before it was cooled, concentrated and partitioned between ethyl acetate and water. The aqueous phase was then separated away from the organic phase and evaporated down to dryness. There was isolated 21.00 g (98%) of the title compound as a white solid, m.p. 185°-195° C. (sealed tube); 1H NMR (300 MHz, D2O) δ 7.11-7.01 (m, 3H), 4.31 (s, 2H), 3.65-3.62 (m, 4H), 3.56-3.50 (m, 4H), 2.04 (s, 6H); 13C NMR (75 MHz, D2O) ppm 168.55, 140.74, 136.95, 133.37, 133.19, 61.89, 54.16, 45.56, 22.24; IR (KBr) 3440, 2958, 1690, 1532, 1472, 1442, 1386, 1308, 1240, 964, 770 cm-1 ; MS m/z calc'd for C14H22N3O 248.1763, found 248.1763.

reactant | N-(2,6-dimethylphenyl)-4-formyl-1-piperazineacetamide | 64.0 mmol, 17.70 g | CC1=C(C(=CC=C1)C)NC(CN1CCN(CC1)C=O)=O | C15H21N3O2
reactant | HCl | 1N, 130 mL | Cl | ClH
solvent | methanol | 500 mL | CO | CH4O
product | N-(2,6-Dimethylphenyl)-1-piperazineacetamide Dihydrochloride Hydrate | 21.00 g, 98% | O.Cl.Cl.CC1=C(C(=CC=C1)C)NC(CN1CCNCC1)=O | InChI=1S/C14H21N3O.2ClH.H2O/c1-11-4-3-5-12(2)14(11)16-13(18)10-17-8-6-15-7-9-17;;;/h3-5,15H,6-10H2,1-2H3,(H,16,18);2*1H;1H2
